US07674822B2
A solution of methyl 6-chloro-3-[(cyanomethyl)thio]-1-benzothiophene-2-carboxylate (1.01 g, 3.4 mmol) in DMF (20 mL) was cooled to 0° C., and lithium hydroxide hydrate (171 mg, 1.2 eq) was added in a single portion. After 1h, the solution was warmed to room temperature and stirred for an additional hour. The reaction solution was diluted with aq. hydrochloric acid and ethyl acetate. The organic layer was washed with water and brine, dried, filtered, evaporated, and recrystallized (EtOH) to provide 6-chloro-3-hydroxythieno[3,2-b][1]benzothiophene-2-carbonitrile (393 mg, 43%) as an off-white solid.

reactant | methyl 6-chloro-3-[(cyanomethyl)thio]-1-benzothiophene-2-carboxylate | 3.4 mmol, 1.01 g | ClC1=CC2=C(C(=C(S2)C(=O)OC)SCC#N)C=C1 | C12H8ClNO2S2
reactant | lithium hydroxide hydrate | 171 mg, 1.2 eq | O.[OH-].[Li+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-3-hydroxythieno[3,2-b][1]benzothiophene-2-carbonitrile | 393 mg, 43% | ClC1=CC2=C(C3=C(S2)C(=C(S3)C#N)O)C=C1 | C11H4ClNOS2
